US04339587
The crude product from Example 6 is mixed with 0.3 g of platinum oxide in 250 ml of glacial acetic acid. The mixture is reduced with hydrogen gas in a Parr apparatus. The catalyst is removed by filtration and the filtrate is evaporated to provide a solid residue. This product, 5-hydroxy-N-(2-piperidylmethyl)-2-(2,2,2-trifluoroethoxy)benzamide acetate, is dissolved in water and the aqueous solution is basified with sodium bicarbonate solution. The water solution is then extracted with a large volume of dichloromethane and the dichloromethane extracts are dried over magnesium sulfate. The magnesium sulfate is removed by filtration and the solvent is evaporated to provide a solid product. The product is recrystallized from toluene, treated with charcoal, filtered and rinsed with a toluenehexane mixture. Another recrystallization from a 1:1 mixture of toluene and hexane provides tan needles of 5-hydroxy-2-(2,2,2-trifluoroethoxy)-N-(2-piperidylmethyl)benzamide, m.p. 134°-137° C.

reactant | hydrogen | [H][H] | H2
reactant | 5-hydroxy-N-(2-piperidylmethyl)-2-(2,2,2-trifluoroethoxy)benzamide acetate | C(C)(=O)O.OC=1C=CC(=C(C(=O)NCC2NCCCC2)C1)OCC(F)(F)F
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | platinum oxide | 0.3 g | [Pt]=O
product | 5-hydroxy-2-(2,2,2-trifluoroethoxy)-N-(2-piperidylmethyl)benzamide | OC=1C=CC(=C(C(=O)NCC2NCCCC2)C1)OCC(F)(F)F | C15H19F3N2O3
